US07968746B2
Oxidation as described in protocol B, using 90.6 mg (0.311 mmol) of 6-hydroxy-2,5,7,8-tetramethyl-N-propylchroman-2-carboxamide and 374.9 mg CAN (0.684 mmol) yielded 2-hydroxy-2-methyl-N-propyl-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide as a yellow powder.

reactant | 6-hydroxy-2,5,7,8-tetramethyl-N-propylchroman-2-carboxamide | 0.311 mmol, 90.6 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)NCCC)C)C | C17H25NO3
reactant | CAN | 0.684 mmol, 374.9 mg | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
product | 2-hydroxy-2-methyl-N-propyl-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide | OC(C(=O)NCCC)(CCC1=C(C(C(=C(C1=O)C)C)=O)C)C | C17H25NO4
